US07442713B2
1-{2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetyl}pyrrolidine-2-carboxylic acid
2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetic acid (1 mmol/0.344 g) are dissolved in 100 ml of absolute THF, carbonyldiimidazole (1 mmol/0.162 g) is added and the mixture is stirred at room temperature until the evolution of carbon dioxide has ceased. Histidine (1 mmol) is then added, and the mixture is heated under reflux for 2 h. The mixture is then poured into 400 ml of 1 N Na2CO3 solution and concentrated in a rotary evaporator. The residue is extracted 3 times with in each case 150 ml of dichloromethane/ethanol 1:1, dried over sodium sulfate and concentrated in a rotary evaporator. The residue is dissolved in a little acetone and re-precipitated using diethyl ether. The precipitate formed is filtered off with suction and dried over P2O5.

reactant | 2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetic acid | 1 mmol, 0.344 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)O | C17H14FN3O2S
reactant | carbonyldiimidazole | 1 mmol, 0.162 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | Histidine | 1 mmol | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | Na2CO3 | 1 N, 400 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-{2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetyl}pyrrolidine-2-carboxylic acid | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)N1C(CCC1)C(=O)O | C22H21FN4O3S
